US04954427
36.6 g of 5-amino-2-mercaptobenzimidazole and 17.1 ml of pyridine were added to 250 ml of N,N-dimethylacetamide. 34.4 g of phenyl chloroformate was added dropwise to the admixture at room temperature. The admixture was then stirred at room temperature for 1.5 hours. The solution was added to 1.5 l of ice water. The resulting crystal was filtered off. The crystal was recrystallized from acetonitrile to obtain 47.7 g of 2-mercapto-5-phenoxycarbonylaminobenzimidazole.

reactant | 5-amino-2-mercaptobenzimidazole | 36.6 g | NC1=CC2=C(N=C(N2)S)C=C1 | C7H7N3S
reactant | pyridine | 17.1 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 34.4 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
product | 2-mercapto-5-phenoxycarbonylaminobenzimidazole | 47.7 g | SC=1NC2=C(N1)C=CC(=C2)NC(=O)OC2=CC=CC=C2 | C14H11N3O2S
